US07989461B2
3-Acetamido-4-methyl-2-nitrobenzoic acid (65 g, 273 mmol) was taken in dioxane (350 mL) and treated with 5 N aqueous HCl (150 mL). The reaction was stirred at 80° C. for 16 h. The dioxane was removed under reduced pressure and the residue poured onto crushed ice. The resulting precipitate was filtered off. The filtrate was extracted with ethyl acetate (2×). The organic layer and the solid were combined and concentrated under vacuum to give 3-amino-4-methyl-2-nitrobenzoic acid (45 g, 84% yield) as a yellow solid. MS (M+H)+ 197.

reactant | 3-Acetamido-4-methyl-2-nitrobenzoic acid | 273 mmol, 65 g | C(C)(=O)NC=1C(=C(C(=O)O)C=CC1C)[N+](=O)[O-] | C10H10N2O5
reactant | HCl | 5 N, 150 mL | Cl | ClH
solvent | dioxane | 350 mL | O1CCOCC1 | C4H8O2
product | 3-amino-4-methyl-2-nitrobenzoic acid | 45 g, 84% yield | NC=1C(=C(C(=O)O)C=CC1C)[N+](=O)[O-] | C8H8N2O4
